US07345068B2
Sodium borohydride (158 mg, 4.18 mmol) was added to a solution of 3-[(4-methoxy)phenoxy]benzaldehyde (573 mg, 2.51 mmol) in ethanol (10 ml) with stirring under ice cooling, and the mixture was stirred at room temperature for 25 min. The solvent was distilled off from the reaction mixture, and the residue was diluted with ethyl acetate, washed with water and brine in turn and dried. The solvent was distilled off and the residue was purified by column chromatography on silica gel (chloroform/ethyl acetate=20) to give 3-[(4-methoxy)phenoxy]benzyl alcohol (469 mg, 81%) as a colorless oil.

reactant | Sodium borohydride | 4.18 mmol, 158 mg | [BH4-].[Na+]
reactant | 3-[(4-methoxy)phenoxy]benzaldehyde | 2.51 mmol, 573 mg | COC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C14H12O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[(4-methoxy)phenoxy]benzyl alcohol | 469 mg, 81% | COC1=CC=C(OC=2C=C(CO)C=CC2)C=C1 | C14H14O3
